US06562916B2
Hafnium Tetrachloride/Nitromethane
17.9 g (55.9 mmol) of hafnium tetrachloride were placed in a two-necked round-bottomed flask under an argon atmosphere. 450 ml of methylene chloride and 32 ml (36.1 g) of nitromethane were added (ratio Hf/nitro compound 1:10.6).

reactant | hafnium tetrachloride | 55.9 mmol, 17.9 g | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4]
reactant | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
reactant | nitromethane | 32 ml, 36.1 g | [N+](=O)([O-])C | CH3NO2
product | Hafnium Tetrachloride Nitromethane | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4].[N+](=O)([O-])C | InChI=1S/CH3NO2.4ClH.Hf/c1-2(3)4;;;;;/h1H3;4*1H;/q;;;;;+4/p-4
